US07011838B2
Using 1.0 g of (4-chlorobenzyl)malononitrile, 15 ml of N,N-di-methylformamide, 0.073 g of cesium carbonate, and 1.47 g of 2,2,3,3-tetra-fluoropropyl trifluoromethanesulfonate, and according to the process described in the Production Example 1, there was obtained 0.12 g of 2-(4-chlorobenzyl)-2-(2,2,3,3-tetrafluoropropyl)malononitrile (the present compound (25)).

reactant | (4-chlorobenzyl)malononitrile | 1.0 g | ClC1=CC=C(CC(C#N)C#N)C=C1 | C10H7ClN2
reactant | cesium carbonate | 0.073 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,3,3-tetra-fluoropropyl trifluoromethanesulfonate | 1.47 g | FC(S(=O)(=O)OCC(C(F)F)(F)F)(F)F | C4H3F7O3S
solvent | N,N-di-methylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorobenzyl)-2-(2,2,3,3-tetrafluoropropyl)malononitrile | 0.12 g, Yield: 7% | ClC1=CC=C(CC(C#N)(C#N)CC(C(F)F)(F)F)C=C1 | C13H9ClF4N2
